US04003914
2-(3,4-dimethoxyphenyl)-N-[4-(3,4-dimethoxyphenyl)-butyl]-m-dithiane-2-propylamine-1,1,3,3-tetraoxide;
2-(3,4-dimethoxyphenyl)-N-methyl-N-(p-methylphenethyl)-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride of melting point 169°-171° C (from acetone/ethyl acetate).

reactant | 2-(3,4-dimethoxyphenyl)-N-methyl-N-(p-methylphenethyl)-m-dithiane-2-propylamine-1,1,3,3-tetraoxide hydrochloride | Cl.COC=1C=C(C=CC1OC)C1(S(CCCS1(=O)=O)(=O)=O)CCCN(CCC1=CC=C(C=C1)C)C
solvent | acetone ethyl acetate | CC(=O)C.C(C)(=O)OCC
product | 2-(3,4-dimethoxyphenyl)-N-[4-(3,4-dimethoxyphenyl)-butyl]-m-dithiane-2-propylamine-1,1,3,3-tetraoxide | COC=1C=C(C=CC1OC)C1(S(CCCS1(=O)=O)(=O)=O)CCCNCCCCC1=CC(=C(C=C1)OC)OC | C27H39NO8S2
